Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Pelvic pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo G6P1 with recently diagnosed PID (___) with continued 
abdominal/pelvic pain despite treatment with CTX and oral 
doxycycline.  She reports that her pain is across her entire 
lower abdomen, ranges from ___, is nonradiating, worse with 
lying down.  She is experiencing some pressure and pain with
urination and yellow vaginal discharge.  She recently had 
negative GC/Chlamydia testing on ___. She had a normal pelvic 
ultrasound on ___. 

She reports occasional nausea but no emesis. She denies any 
fever, chills, chest pain, SOB, diarrhea, vaginal bleeding  
numbness or weakness.  

 
Past Medical History:
GYNH: 
- Hx of trichomonas diagnosed recently by PCP and treated with
flagyl.  Her husband also has been treated.  
- Last pap ___ normal
- Hx of LSIL pap
- Hx of ovarian cysts
- Lichen sclerosis
- Vulvar lentigo
- Hidradenitis suppurativa s/p mult I+Ds, vulvar resection and
reconstruction

OBH: G6P1
- SVD of 9#11 infant. Full term, ___
- Early SAb x5

PMH: 
- Anxiety/Depression
- GYN hx as above

PSURGH: 
- LSC Ovarian cyst drainage
- L wrist surgery
- Vulvar resection and reconstruction for hidradenitis
suppurativa
- Numerous I+D of hidradenitis suppurativa

 
Social History:
Lives at home with husband and son.  Smokes ___ cigarettes 
daily.  15 pack year history.  Denies alcohol or drug use.  
Works has ___. 

 
Physical Exam:
Exam on admission ___:
VS: T-98.4  HR-62  BP-96/62  RR-20
Gen: NAD
CV: RRR
Pulm: CTAB
Abd: +BS, soft, nondistended, tender to palpation over lower
abdomen, no rebound or guarding
Ext: Nontender
Pelvic: Loss of architecture, scattered pigmented areas noted 
c/w
dx of lentigo. Scarring consistent with previous reconstructive
surgery. Normal urethral meatus.  Speculum exam revealed small
amount of white/yellow discharge.  Normal appearing cervix
without lesions. Bimanual exam revealed +CMT and bilateral
adnexal tenderness but no adnexal masses were appreciated. Her
uterus was small, mobile. 
- BV/yeast Cx sent

 
Pertinent Results:
___ 08:50AM BLOOD WBC-4.0 RBC-3.78* Hgb-12.3 Hct-36.8 
MCV-97 MCH-32.4* MCHC-33.3 RDW-13.4 Plt ___
___ 06:20AM BLOOD WBC-4.4 RBC-3.74* Hgb-12.1 Hct-36.5 
MCV-98 MCH-32.5* MCHC-33.3 RDW-13.4 Plt ___
___ 02:29PM BLOOD WBC-5.1 RBC-3.96* Hgb-12.5 Hct-39.2 
MCV-99* MCH-31.7 MCHC-32.0 RDW-13.5 Plt ___
___ 08:50AM BLOOD Neuts-63.1 ___ Monos-5.2 Eos-0.5 
Baso-0.3
___ 06:20AM BLOOD Neuts-55.6 ___ Monos-5.9 Eos-0.4 
Baso-0.2
___ 02:29PM BLOOD Neuts-58.6 ___ Monos-4.7 Eos-0.3 
Baso-0.2
___ 02:36PM BLOOD UreaN-9 Creat-0.6
___ 02:36PM BLOOD HCG-<5
___ 02:30PM URINE Color-Straw Appear-Clear Sp ___
___ 02:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-LG
___ 02:30PM URINE RBC-2 WBC-7* Bacteri-FEW Yeast-NONE Epi-1

Urine culture: negative
BV culture: indeterminant
Yeast culture: negative 

Pelvic U/S ___: Normal pelvic ultrasound aside from trace 
free pelvic fluid without evidence ___ or pyosalpinx. Left 
ovary was not seen. 

 
Brief Hospital Course:
Ms. ___ was admitted to the gyn service for inpatient 
management of PID with IV antibiotics.  She was started on 
gentamicin and clindamycin.  Over her hospital stay she remained 
afebrile with normal WBC count.  As her hospital course her 
pelvic pain improved significantly.  By hospital day 3 she her 
pain was minimal. She was tolerating a regular diet, controlling 
her pain with oral pain medications.  She was discharged home on 
oral antibiotics (cipro and flagyl) on hospital day 3 with 
follow-up. She will finish a 2 week course of antibiotics. 
 
Medications on Admission:
- Clobetasol
- Lorazepam prn
- Tramadol 50 mg q4h prn
- Venlafaxine XR 75 mg daily
- MVI

 
Discharge Medications:
1. metronidazole 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 12 days: Do not drink alcohol.
Disp:*22 Tablet(s)* Refills:*0*
2. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.  
3. venlafaxine 75 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO DAILY (Daily).  
4. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
5. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 11 days.
Disp:*22 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic inflammatory disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for IV antibiotics to treat 
pelvic inflammatory disease.  You will be sent home with oral 
antibiotics.  Please take all medications as prescribed.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___